US05710166
Preparation of 3-[4-cyanobenzyl]aminopropanoic acid
4-cyanobenzaldehyde (0.65 g; 5 mmoles) and β-alanine ethyl ester.HCl (0.76 g; 5 mmoles) were dissolved in N,N-dimethylformamide (10 ml) containing 1% acetic acid. After 10 min., sodiumcyanoborohydride (0.35 g; 5 mmoles) was added to the solution. The reaction mixture was stirred at room temperature for 12 hrs. and taken down to dryness under reduced pressure. The residue was treated with 1N lithium hydroxide/methanol (1:1; 20 ml) for 15 min. Methanol was removed and the pH of the remaining solution was adjusted to pH 5 with 50% acetic acid. The product was purified by HPLC using a linear gradient of acetonitrile/water/trifluoroacetic acid. The desired fractions was collected and lyophilized to give 0.81 g of white solid (79% yield). FAB-MS: MH+ =205.1.

reactant | 4-cyanobenzaldehyde | 5 mmoles, 0.65 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | β-alanine ethyl ester | C(C)OC(CCN)=O | C5H11NO2
reactant | HCl | 5 mmoles, 0.76 g | Cl | ClH
reactant | sodiumcyanoborohydride | 5 mmoles, 0.35 g | C(#N)[BH3-].[Na+]
reactant | lithium hydroxide methanol | 1N, 20 ml | [OH-].[Li+].CO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[4-cyanobenzyl]aminopropanoic acid | 0.81 g, 79% yield | C(#N)C1=CC=C(CNCCC(=O)O)C=C1 | C11H12N2O2
